US08049016B2
Synthesis of (R)-2-(3-(3,5-difluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((5-methylpyrazin-2-yl)methyl)thiazole-5-carboxamide
Following the procedure as described in Example 2, making variations as required to replace pyridin-3-ylmethanamine with (5-methylpyrazin-2-yl)methanamine and replace (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with (R)-2-(3-(3,5-difluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white solid: mp 131-132° C. (ethanol/water); 1H NMR (300 MHz, DMSO-d6) δ 8.58 (t, J=5.7 Hz, 1H), 8.47-8.46 (m, 2H), 7.19-7.08 (m, 3H), 4.60-4.37 (m, 4H), 4.23 (t, J=9.6 Hz, 1H), 3.87-3.80 (m, 1H), 3.59 (dd, J=10.1, 6.7 Hz, 1H), 2.48 (s, 3H), 2.47 (s, 3H), 1.22 (d, J=6.2 Hz, 3H); MS (ES+) m/z 473.0 (M+1).

reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
reactant | (5-methylpyrazin-2-yl)methanamine | CC=1N=CC(=NC1)CN | C6H9N3
reactant | (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
reactant | (R)-2-(3-(3,5-difluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC=1C=C(CN2C(N(C[C@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C(C1)F | C16H15F2N3O3S
product | (R)-2-(3-(3,5-difluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((5-methylpyrazin-2-yl)methyl)thiazole-5-carboxamide | FC=1C=C(CN2C(N(C[C@H]2C)C=2SC(=C(N2)C)C(=O)NCC2=NC=C(N=C2)C)=O)C=C(C1)F | C22H22F2N6O2S
